US07807673B2
Step B: 1-[2-(Methyloxy)-5-nitrophenyl]-4-[2-(methylsulfonyl)ethyl]piperazine
The compound was synthesized by heating a solution of 1-[2-(methyloxy)-5-nitrophenyl]piperazine (0.5 g, 2.11 mmol) and methyl vinyl sulfone (0.336 g, 3.16 mmol) in iPrOH (25 mL) to reflux overnight. Reaction was cooled to rt and dried directly onto silica gel. Purified by silica gel chromatography 0-20% MeOH/NH4OH in EtOAc to obtain 0.5 g (69% yield) of the desired compound as a solid. 1H NMR (400 MHz, DMSO-D6) δ ppm 2.6 (m, 4H) 2.7 (t, J=6.8 Hz, 2H) 3.0 (m, 8H) 3.9 (s, 3H) 7.1 (d, J=9.0 Hz, 1H) 7.6 (d, J=2.7 Hz, 1H) 7.9 (dd, J=9.1, 2.8 Hz, 1H).

reactant | 1-[2-(methyloxy)-5-nitrophenyl]piperazine | 2.11 mmol, 0.5 g | COC1=C(C=C(C=C1)[N+](=O)[O-])N1CCNCC1 | C11H15N3O3
reactant | methyl vinyl sulfone | 3.16 mmol, 0.336 g | C(=C)S(=O)(=O)C | C3H6O2S
solvent | iPrOH | 25 mL | CC(C)O | C3H8O
product | 1-[2-(Methyloxy)-5-nitrophenyl]-4-[2-(methylsulfonyl)ethyl]piperazine | 0.5 g, 69% yield | COC1=C(C=C(C=C1)[N+](=O)[O-])N1CCN(CC1)CCS(=O)(=O)C | C14H21N3O5S
